US06919356B2
Part L: Preparation of [3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-carbamic acid phenyl ester
A solution of 3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)aniline (3.83 g, 19 mmol) in tetrahydrofuran was treated with 2,6-lutidine (2.17 mL, 19 mmol) and cooled to 0° C. A solution of phenyl chloroformate (2.36 mL, 19 mmol) in tetrahydrofuran was added dropwise. The mixture was stirred for 1 hour, then was diluted with ethyl acetate and 0.1 N aqueous hydrochloric acid. The separated organic phase was washed twice with 0.1 N aqueous hydrochloric acid, then with saturated aqueous sodium chloride. The solution was dried over magnesium sulfate and concentrated under vacuum to provide a tan solid (6.00 g, quantitative). 1H NMR (300 MHz, CDCl3) δ7.86 (s, 1H), 7.5-7.3 (m, 5H), 7.3-7.1 (m, 3H), 4.17 (s, 3H), 2.71 (q, J=7 Hz, 2H), 1.27 (t, J=7 Hz, 3H).

reactant | 3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)aniline | 19 mmol, 3.83 g | C(C)C=1C=C(N)C=C(C1)C1=NN=NN1C | C10H13N5
reactant | 2,6-lutidine | 19 mmol, 2.17 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | phenyl chloroformate | 19 mmol, 2.36 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 0.1 N | Cl | ClH
product | [3-ethyl-5-(1-methyl-1H-tetrazol-5-yl)phenyl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=CC(=CC(=C1)C1=NN=NN1C)CC)=O | C17H17N5O2
